US08372307B2
To 3-(4′-formyl-bicyclohexyl-4-yl)-propionic acid ethyl ester (7.8 g, 25 mmol) and methyltriphenylphosphoniumbromide (9.5 g, 26 mmol) in THF (150 ml) is added potassium-tert-butoxide portionwise at −10° C. The reaction mixture is stirred overnight, quenched with water and acidified with hydrochloric acid. The aq. layer is separated and extracted twice with MTB ether. The combined org. layers are washed with brine, dried (Na2SO4) and evaporated. The crude product is purified with heptane/ethyl acetate (19:1) on silica to give 3-(4′-vinyl-bicyclohexyl-4-yl)-propionic acid ethyl ester as a colourless solid.

reactant | 3-(4′-formyl-bicyclohexyl-4-yl)-propionic acid ethyl ester | 25 mmol, 7.8 g | C(C)OC(CCC1CCC(CC1)C1CCC(CC1)C=O)=O | C18H30O3
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
catalyst | methyltriphenylphosphoniumbromide | 26 mmol, 9.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-(4′-vinyl-bicyclohexyl-4-yl)-propionic acid ethyl ester | C(C)OC(CCC1CCC(CC1)C1CCC(CC1)C=C)=O | C19H32O2
